US06384061B1
1-1) Synthesis of 3-[3-(1-triphenylmethyl-imidazol-4-yl)-propyl]-5-methyl-5-naphthalen-1-yl-imidazolidin-2,4-dione
0.60 g(2.5 mmol) of 5-methyl-5-naphthalen-1-yl-imidazolidin-2,4-dione prepared in Preparation 1, 1.02 g(2.76 mmol) of 3-(1-triphenylmethyl-imidazol-4-yl)-propanol and 0.87 g(3.3 mmol) of triphenylphosphine (Ph3P) were dissolved in 50 ml of tetrahydrofuran. 0.52 ml(3.3 mmol) of diethylazodicarboxylate[DEAD] was added thereto and the resulting solution was stirred for 24 hours. Tetrahydrofuran was removed under reduced pressure and the residue was subjected to chromatography using ethyl acetate the eluent to obtain 1.17 g(Yield: 80%) of the title compound.

reactant | 5-methyl-5-naphthalen-1-yl-imidazolidin-2,4-dione | 2.5 mmol, 0.60 g | CC1(C(NC(N1)=O)=O)C1=CC=CC2=CC=CC=C12 | C14H12N2O2
reactant | 3-(1-triphenylmethyl-imidazol-4-yl)-propanol | 2.76 mmol, 1.02 g | C1(=CC=CC=C1)C(N1C=NC(=C1)CCCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H24N2O
reactant | triphenylphosphine | 3.3 mmol, 0.87 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-[3-(1-triphenylmethyl-imidazol-4-yl)-propyl]-5-methyl-5-naphthalen-1-yl-imidazolidin-2,4-dione | 1.17 g, Yield: 80% | C1(=CC=CC=C1)C(N1C=NC(=C1)CCCN1C(NC(C1=O)(C1=CC=CC2=CC=CC=C12)C)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C39H34N4O2
